.param P_Drive = 0.5
.param P_Level = 1
* generated from MXR Distortion +.schx
VCC VCC 0 DC 9
VIN IN 0 SIN(0 50m 500)
CC1 N3 0 1n
RR1 IN N5 10k
RR2 N6 VB 1meg
CC2 N5 N6 10n
RR3 N9 N11 1meg
RR4 N10 N12 4.7k
RDrive N9 N10 {1meg * P_Drive}
CC3 N12 0 47n
CC4 N11 N14 1u
RR5 N14 N15 10k
CC5 N15 N16 1n
RLevelA N15 0 {10k * (1-P_Level)}
RLevelB 0 N19 {10k * P_Level}
RS1 N19 0 8
DD1 N15 N16 1N34A
DD2 N15 0 1N34A
.tran 2u 100m 80m
.op
.control
  run
  quit
.endc
.end
